US05280032
1.19 g of 4-benzylthiobenzaldehyde was dissolved in 20 ml of tetrahydrofuran The solution was cooled to -10° C. Thereto was dropwise added 10 ml of a tetrahydrofuran solution containing 2M of 2-chloroethoxymethylmagnesium chloride in 10 minutes. The resulting mixture was stirred for 1 hour with ice cooling. The reaction mixture was added to a mixture of 50 ml of ice water, 50 ml of ethyl acetate and 1 g of ammonium chloride The resulting mixture was adjusted to pH 2 with 6N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate The solvent was removed by distillation under reduced pressure The residue thus obtained was purified by column chromatography [eluant toluene/ethyl acetate=20/1]to obtain 1.34 g of 1-(4-benzylthiophenyl)-2-(2-chloroethoxy)ethanol.

reactant | 4-benzylthiobenzaldehyde | 1.19 g | C(C1=CC=CC=C1)C1=CC=C(C=S)C=C1 | C14H12S
reactant | 2-chloroethoxymethylmagnesium chloride | 2M | ClCCOC[Mg]Cl
reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(4-benzylthiophenyl)-2-(2-chloroethoxy)ethanol | 1.34 g | C(C1=CC=CC=C1)SC1=CC=C(C=C1)C(COCCCl)O | C17H19ClO2S
